US05883092
Synthesis of 4-t-butyl-N-[2-(4-t-butoxycarbonylpiperazinyl)-6-(3-hydroxypropyloxy)-5-(2-methoxyphenoxy)-4-pyrimidinyl]benzenesulfonamide
4-t-Butyl-N-[6-(3-hydroxypropyloxy)-5-(2-methoxyphenoxy)-2-piperazinyl-4-pyrimidinyl]-benzenesulfonamide (55 mg; 0.096 mmol)) was dissolved in chloroform (2 ml). N,N-Dimethylaminopyridine (1.5 mg; 0.01 mmol) and di-t-butyldicarbonate (21.8 mg; 0.1 mmol) were added to the solution. The resultant mixture was stirred overnight at room temperature, and then poured into water, and extracted with chloroform. The organic layer was washed with water, dried over anhydrous sodium sulfate, and evaporated. The residue was purified by silica gel column chromatography (chloroform:methanol=10:1), to thereby obtain 61 mg (yield: 94%) of the title compound as a pale yellow oil.

reactant | 4-t-Butyl-N-[6-(3-hydroxypropyloxy)-5-(2-methoxyphenoxy)-2-piperazinyl-4-pyrimidinyl]-benzenesulfonamide | 0.096 mmol, 55 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)OCCCO)N1CCNCC1 | C28H37N5O6S
reactant | di-t-butyldicarbonate | 0.1 mmol, 21.8 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | O | H2O
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-t-butyl-N-[2-(4-t-butoxycarbonylpiperazinyl)-6-(3-hydroxypropyloxy)-5-(2-methoxyphenoxy)-4-pyrimidinyl]benzenesulfonamide | 61 mg, yield: 94% | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)OCCCO)N1CCN(CC1)C(=O)OC(C)(C)C | C33H45N5O8S
